US08017611B2
To a solution of 2-amino-N-(2-hydroxy-4-methoxy-phenyl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxamide (110 mg) in acetic acid (1.8 ml) was added TFA (1.8 ml). The clear mixture was sealed into a microwave tube. The reaction was heated to 200° C. a 300 W microwave for 20 minutes. The solvents were evaporated. The residue was trituratred in diethyl ether, dried to give a yellow solid. The solid was dissolved in DMF (1.5 ml) and two drops of a 30% aqueous ammonia solution. The precipitate was filtered, washed with Ether and dried at 50° C. for 48 h to afford 3-(6-methoxy-1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine (25.00 mg). NMR Spectrum: (DMSOd6) 1.93-2.12 (m, 6H), 2.22 (s, 3H), 2.94-2.91 (m, 2H), 3.86 (s, 3H), 4.07-4.16 (m, 1H), 7.03 (dd, 1H), 7.40 (d, 1H), 7.57 (bs, 2H), 7.72 (d, 1H), 7.89 (d, 1H), 8.30 (s, 1H), 8.36 (d, 1H), 8.49 (d, 1H). Mass spectrum: M+H+ 405.

reactant | 2-amino-N-(2-hydroxy-4-methoxy-phenyl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridine-3-carboxamide | 110 mg | NC1=NC=C(C=C1C(=O)NC1=C(C=C(C=C1)OC)O)C=1C=NN(C1)C1CCN(CC1)C | C22H26N6O3
reactant | TFA | 1.8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ammonia | N | H3N
solvent | acetic acid | 1.8 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 3-(6-methoxy-1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 25.00 mg | COC1=CC2=C(N=C(O2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCN(CC2)C)N)C=C1 | C22H24N6O2
